US04752606
Preparation of Sodium Oleanolate
A 10% aqueous solution of sodium hydroxide is added to an almost saturated solution of oleanolic acid in a water immiscible solvent, for example dichloromethane or diethyl ether. The volume of the sodium hydroxide solution is controlled by the amount of oleanolic acid taken; the final mixture should contain at least one, preferably 1,5 to 3, mole sodium hydroxide per mole oleanolic acid--a large excess of the sodium hydroxide solution may lower the yield. The mixture is mixed well (vigorous stirring or shaking) and the precipitated sodium oleanolate is separated. The sodium oleanolate can be recrystallised from aqueous organic solvents, preferably aqueous methanol or aqueous ethanol.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | oleanolic acid | C[C@]12CC[C@@H](C([C@@H]1CC[C@@]3([C@@H]2CC=C4[C@]3(CC[C@@]5([C@H]4CC(CC5)(C)C)C(=O)O)C)C)(C)C)O | C30H48O3
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Sodium Oleanolate | C[C@]12CC[C@@H](C([C@@H]1CC[C@@]3([C@@H]2CC=C4[C@]3(CC[C@@]5([C@H]4CC(CC5)(C)C)C(=O)[O-])C)C)(C)C)O.[Na+] | InChI=1S/C30H48O3.Na/c1-25(2)14-16-30(24(32)33)17-15-28(6)19(20(30)18-25)8-9-22-27(5)12-11-23(31)26(3,4)21(27)10-13-29(22,28)7;/h8,20-23,31H,9-18H2,1-7H3,(H,32,33);/q;+1/p-1/t20-,21-,22+,23-,27-,28+,29+,30-;/m0./s1
